Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
mirtazapine
 
Attending: ___.
 
Chief Complaint:
Nausea and vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a pleasant ___ w/ ID-T2DM, HTN, DL, BPH, and 
three concurrent cancers (1) metastatic clear cell RCC, s/p 
radical L nephrectomy in ___, found to have pulmonary, 
mediastinal, and hilar mets ___ (now off sunitinib w/o 
disease progression), (2) metastatic cholangiocarcinoma s/p 6 
months gem/cisplatin, who subsequently had new (3) acinar cell 
carcinoma of the pancreas, now on ___ I regimen of liposomal 
irinotecan and ___, last dose ___, p/w nausea/vomiting that 
started last evening. 

Patient was interviewed with his daughter at bedside and she 
helped provide collateral. 

They note that he has had n/v the past few weeks, especially 
with chemo. He had poor appetite as well since chemo. The 
vomiting seemed to be intermittent, sometimes able to tolerate 
PO. Last night he developed abdominal pain and vomiting. He had 
regular bowel movements last night.  This morning he had 
diarrhea but no further episodes of vomiting and his abdominal 
pain improved and nausea improved. He had special K cereal with 
skim milk today and tolerated it well. 

He called into his ___ clinic where he was seen this am. There 
he had 2L NS and obtained a KUB which suggested SBO. He is only 
a little tender in the epigastrium on exam. He was then admitted 
to 12R to the oncology service.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
-___: presented with acute onset of gross hematuria
accompanied with some mild flank pain. During his workup, he was
found to have a 4.8 cm mass on a CAT scan dated ___,
specifically the scan describes a left renal mass with internal
enhancement measuring 4.1 x 4.8 cm in size in the mid and upper
pole of the left kidney. Also described was the fat-containing
left inguinal hernia and left perinephric stranding. There was 
no
adenopathy or other suspicious lesions. There is also an old
sclerotic right ilial lesion and left sacral lesion. 
-___: underwent a laparoscopic hand assisted radical right
nephrectomy by Dr. ___ pathology showed a 
renal
cell carcinoma, clear cell type, ___ grade II/IV measuring 4
cm extending but not invading through the renal capsule or
Gerota's fascia margins were questionably positive at the renal
vein and otherwise negative. On review of pathology here at ___, the margins are described as negative including the 
renal
vein margin. A background of global glomerulosclerosis is
described. Overall, this was a T3bNxMx lesion. Postoperative
imaging on ___ which was a CT torso showed no evidence of
recurrent or metastatic disease.
-___: CT chest showed interval increase in prominence of
mediastinal lymph nodes and minimal interval increase in 
multiple
b/l pulmonary nodules, concerning for progression
-___: Fine needle aspirate of 11R and 11L lymph nodes, which
was consistent with metastatic RCC
-___: CT Torso - mediastinal and hilar nodes and pulmonary
lesions increased in size. No definite intra-abdominal sites of
disease 
-___: C1D1 ___, randomized to sunitinib
-___: Multiple grade ___ adverse events including
thrombocytopenia (grade 2; platelet 52,000), leukopenia (grade 
2;
WBC 2.9), elevated lipase (grade 1), elevated amylase (grade 1;
elevated at baseline), elevated ALT (grade 1), and 
hypothyroidism
(grade 1). Mild symptoms with treatment. Continued sunitinib at
50mg daily per protocol.
-___: CT Torso: Response of mediastinal lymphadenopathy,
bilateral hilar lymphadenopathy, and numerous parenchymal
metastases. Stable disease by RECIST (decrease 19.1% from
baseline).
-___: Sunitinib reduced to 37.5 mg daily due to erythematous
rash and blistering on palms and sole of right foot.
-___: CT Torso: Decrease in pulmonary and mediastinal
lesions. Stable disease by RECIST 1.1 (decrease 22.5% from
baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
39.8% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
46.3% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease 
40.3%
from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
42.6% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
47.7% from baseline).
-___: CT torso: Ongoing partial response comments: No
significant change compared to prior scan. No new lesions. 
-___: CT Torso: PR by RECIST 1.1 
-___: CT Torso: PR by RECIST 1.1: -54.22% change from
baseline and -10.29% change from last scan. 
-___: CT Torso:  partial response: -57.79% from baseline,
-7.79% from nadir
-___: CT Torso shows continued partial response, no
significant change compared to prior

PAST MEDICAL HISTORY (per OMR):
1. Clear cell kidney cancer as above.
2. Benign prostatic hypertrophy.
3. Diabetes mellitus.
4. Hypertension.
5. Hyperlipidemia.
6. History of anxiety.

 
Social History:
___
Family History:
Colorectal cancer - mother
___ cancer - sister (dx at age ___
Liver cancer - brother
___ cell leukemia - brother
___ - father

 
Physical ___:
ADMISSION EXAM:
VITAL SIGNS: 98.4 PO 112 / 71 89 18 97 Ra
General:  NAD, Resting in bed comfortably with daughter at 
bedside
___: + xerostomia, + healing dried cold sore the L lower lip
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD: scant bowel sounds, mostly tympanic, soft, minimally tender 
in epigastrium, no peritoneal signs, no significant distention
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on trunk nor extremities
NEURO: Face symmetric, speech clear and fluent, strength b/l 
___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: R Chest port site intact w/o overlying erythema, 
accessed and dressing C/D/I 

DISCHARGE EXAM:
___ 0910 Temp: 97.4 PO BP: 136/89 HR: 102 RR: 18 O2 sat: 
95%
O2 delivery: RA FSBG: 269 
___ 0918 Pain Score: ___ 
GENERAL: appears uncomfortable, weaker and pale.
EYES: Anicteric
ENT: MMM, no lesions noted
CV: RRR, no murmur. Right chest port.
RESP: anterior exam, quiet lungs, normal respiratory effort.
GI: Abdomen soft, mild distention, G-tube in place.
MSK: no edema or swelling
NEURO: sleepy, but awakens with gentle touch, face symmetric, 
speech fluent, moves all limbs, answers all questions, fully
oriented.
PSYCH: Pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 01:15PM BLOOD WBC-3.5* RBC-2.83* Hgb-8.4* Hct-26.9* 
MCV-95 MCH-29.7 MCHC-31.2* RDW-17.2* RDWSD-58.1* Plt ___
___ 01:15PM BLOOD Neuts-74* Lymphs-12* Monos-13 Eos-0* 
___ Metas-1* AbsNeut-2.59 AbsLymp-0.42* AbsMono-0.46 
AbsEos-0.00* AbsBaso-0.00*
___ 05:41AM BLOOD ___ PTT-25.9 ___
___ 01:15PM BLOOD UreaN-26* Creat-1.8* Na-132* K-4.4 Cl-95* 
HCO3-22 AnGap-15
___ 01:15PM BLOOD ALT-20 AST-28 LD(___)-861* AlkPhos-150* 
TotBili-0.4
___ 01:15PM BLOOD Albumin-3.3* Calcium-9.1 Phos-3.9 Mg-2.2
=======================
DISCHARGE LABS:
___ 06:25AM BLOOD WBC-19.0* RBC-3.27* Hgb-9.4* Hct-31.4* 
MCV-96 MCH-28.7 MCHC-29.9* RDW-17.6* RDWSD-59.2* Plt ___
___ 06:25AM BLOOD Glucose-176* UreaN-35* Creat-1.5* Na-141 
K-4.8 Cl-100 HCO3-22 AnGap-19*
___ 06:25AM BLOOD ALT-24 AST-79* LD(LDH)-1713* AlkPhos-184* 
TotBili-0.8
___ 06:25AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.1
=======================
MICROBIOLOGY:
___ 3:07 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 
                            **FINAL REPORT ___
   C. difficile PCR (Final ___: 
      NEGATIVE. 
___ 3:07 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 
   FECAL CULTURE - R/O E.COLI 0157:H7 (Pending): 
=======================
ABDOMINAL X-RAY ___:
FINDINGS: 
There are multiple centrally located distended loops of small 
bowel, concerning for small bowel obstruction. There is no free 
intraperitoneal air. Osseous structures are unremarkable. 
Re-demonstrated is a common bile duct extent in grossly 
unchanged position compared to the prior study given differences 
in techniques. Two small linear
hyperdensities noted over the midline adjacent to the biliary 
stent, likely surgical clips.
IMPRESSION: Imaging findings concerning for small-bowel 
obstruction.  Further evaluation with CT abdomen and pelvis, 
with iv contrast, is recommended.

CT ABDOMEN/PELVIS WITH ORAL CONTRAST ___:
1. Interval increase in size of pancreatic head mass, now 
measuring up to 8.0 cm, previously 6.0 cm.
2. Numerous metastatic lesions throughout the liver, increased 
in size and number.
3. Interval worsening of retroperitoneal lymphadenopathy.
4. Wall thickening of an approximately 20 cm segment of distal 
and terminal ileum with adjacent fat stranding, compatible with 
infectious or inflammatory ileitis.  No small bowel obstruction. 
 Oral contrast is seen to the rectum.
5. New 3 mm pulmonary nodule in the left lower lobe.

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with type 2 diabetes, 
hypertension, hyperlipidemia, BPH, and three concurrent cancers: 
(1) metastatic clear cell renal cell carcinoma, s/p radical L 
nephrectomy in ___, found to have pulmonary,
mediastinal, and hilar metastases ___ (now off sunitinib 
without disease progression), (2) metastatic cholangiocarcinoma 
s/p 6 months gem/cisplatin, who subsequently had new (3) acinar 
cell carcinoma of the pancreas, now on ___ I regimen of 
liposomal irinotecan and ___, last dose ___, who went to 
___ clinic with nausea, vomiting, abdominal pain and was 
found to have possible SBO on KUB.  This led to direct admission 
for workup.  CT abdomen/pelvis with oral contrast showed no 
evidence of bowel obstruction, but showed findings of ileitis, 
as well as increasing pancreatic mass size and new hepatic 
lesions all concerning for progression of his cancer.  While 
hospitalized, he developed recurrent symptoms of nausea, 
vomiting after an initial improvement, and then developed signs 
and symptoms of frank obstruction likely related to his 
pancreatic mass or peritoneal carcinomatosis.  No further 
imaging was pursued.  An NG tube was placed for decompression 
and he had significant improved symptoms.  He subsequently 
underwent palliative venting G-tube is a transition to hospice.

ACUTE/ACTIVE PROBLEMS:
# Abdominal pain
# Nausea and vomiting, with malignant obstruction, in setting of 
progressive acinar cell cancer, and large pancreatic mass
# Acinar cell pancreatic cancer
He has been off sutinib as his other cancers are being managed 
and his pulm/hepatic mets have been stable. He is not yet due 
for restaging imaging. He is due for
___, LV, liposomal irinotecan. His oncologists are Dr ___ 
___ Dr ___ seen on ___.  CT abdomen/pelvis showed 
increased size of pancreatic head mass (from 6.0 to 8.0 cm), 
numerous metastatic liver lesions (increased in size and 
number), interval worsening of retroperitoneal lymphadenopathy, 
and new 3 mm pulmonary nodule in the left lower lobe.  He had 
been having nausea and vomiting likely related to chemo for 
several weeks, but then developed diarrhea, vomiting, and 
abdominal pain the night prior to presentation. His symptoms 
have resolved.  He had 2 watery bowel movements after admission. 
 KUB had showed multiple centrally located distended loops of 
small bowel, concerning for small bowel obstruction.  He has not 
had prior bowel obstruction.  Since he has only 1 kidney with a 
Cr of 1.6, initial CT was done without IV contrast.  CT 
abdomen/pelvis with oral contrast showed no evidence of bowel 
obstruction, but showed wall thickening of distal and terminal 
ileum with adjacent fat stranding, compatible with infectious or 
inflammatory ileitis.  Since he was afebrile with improved 
symptoms, empiric antibiotics were not started.  C. difficile 
was negative as was ecoli.   He was initially treated with bowel 
rest and IV fluids, then diet was advanced.  The CT scan also 
showed increasing size of pancreatic mass, enlarging and new 
hepatic lesions, new left lung nodule, worsening retroperitoneal 
lymphadenopathy, all concerning for progression of disease.   
Given this new complication of his pancreatic cancer, family 
meeting was held on ___, with a decision to pursue hospice 
care at home given no other therapeutic options.  His prognosis 
was given as weeks.  He was transitioned to liquid concentrated 
morphine for pain, as well as lorazepam for anxiety, and 
dexamethasone for nausea.  Oral medications were given after his 
PEG was placed, with clear instructions on how to take them.  
This included dexamethasone, concentrated morphine, and 
olanzapine.  Other home medications were continued at this time, 
with decisions to stop these medications going forward to occur 
with hospice services and Dr. ___, patient's 
oncologist.  MOLST form was completed.

# Acute on chronic anemia: Baseline hemoglobin is ___.  
Hemoglobin was low at 6.7 on ___, so he was transfused 1 unit 
PRBCs with improvement to 8.3.  He had no obvious signs of acute 
blood loss anemia and stool has not appeared grossly bloody or 
signs of melena evident.  His blood count remained stable.  Labs 
were not checked after goals of care were changed.

CHRONIC/STABLE PROBLEMS:
# Chronic kidney disease: Creatinine is 1.4-1.6 at baseline.  He 
had recent ___ with Cr of 2.2 on ___ and 1.8 on admission, 
likely due to dehydration. Renal function returned to baseline 
after getting IV fluids then rose after he likely developed 
recurrent dehydration.  As stated above labs were not rechecked 
after goals of care change.

# History of Portal Vein Thrombus: He was continued on home 
Rivaroxaban 10mg daily, except for initially being held while 
NPO.  This was continued for now, but should be stopped if 
decided not consistent with comfort going forward.

# Severe protein-calorie malnutrition: He has low albumin and 
reported low oral intake due to nausea, vomiting, and abdominal 
pain, which has been ongoing off/on for weeks, likely due to 
chemo and his known cancers.  Consulted nutrition who 
recommended low fiber diet with Ensure Clear early in 
hospitalization, but given transition to hospice, he was 
recommended to have diet as tolerated.

# Type 2 diabetes: His glargine was initially decreased while 
NPO on IV D5LR, then stopped and treated with sliding scale 
insulin only and Glipizide was held.  On discharge, glipizide 
was continued.

TRANSITIONS OF CARE
-------------------
# Follow-up: patient is being discharged to hospice.  Dr. ___ 
___ be the physician responsible for decisions going 
forward.

# Code status: DNR/DNI, comfort-focused care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
2. Citalopram 20 mg PO DAILY 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. LORazepam 0.5 mg PO DAILY:PRN anxiety/insomnia 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Prochlorperazine 5 mg PO Q8H:PRN nausea/vomiting 
8. Rivaroxaban 10 mg PO DAILY 
9. Tamsulosin 0.4 mg PO QHS 
10. Vitamin D 5000 UNIT PO DAILY 
11. Ascorbic Acid ___ mg PO DAILY 
12. Cyanocobalamin 1000 mcg PO DAILY 
13. Fenofibrate 48 mg PO DAILY 
14. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
15. GlipiZIDE 2.5 mg PO BID 
16. Abreva (docosanol) 10 % topical ___ times daily prn cold 
sore 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO DAILY 
RX *dexamethasone 4 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
2.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL ___ 
mg PO Q2H:PRN Breakthrough pain 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 0.25-0.75 ml by 
mouth q2h Refills:*0 
3.  OLANZapine (Disintegrating Tablet) 5 mg PO BID:PRN nausea 
not addressed by ondansetron 
RX *olanzapine 5 mg 1 tablet(s) by mouth twice a day Disp #*10 
Tablet Refills:*0 
4.  Abreva (docosanol) 10 % topical ___ times daily prn cold 
sore  
5.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
6.  Ascorbic Acid ___ mg PO DAILY  
7.  Citalopram 20 mg PO DAILY  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  Fenofibrate 48 mg PO DAILY  
10.  Levothyroxine Sodium 100 mcg PO DAILY  
11.  LORazepam 0.5 mg PO DAILY:PRN anxiety/insomnia  
12.  Multivitamins 1 TAB PO DAILY  
13.  Omeprazole 20 mg PO DAILY  
14.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
15.  Prochlorperazine 5 mg PO Q8H:PRN nausea/vomiting  
16.  Rivaroxaban 10 mg PO DAILY  
17.  Tamsulosin 0.4 mg PO QHS  
18. HELD- GlipiZIDE 2.5 mg PO BID  This medication was held. Do 
not restart GlipiZIDE until someone tells you to

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Abdominal pain
Nausea with vomiting
Diarrhea
Ileitis
Metastatic cholangiocarcinoma
Acinar cell pancreatic cancer
Metastatic renal cell carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized with abdominal pain.  Despite the fact 
that you initially improved, you subsequently worsened and the 
symptoms were all related to progressive cancer.  We talked 
about the meaning of this with you and your family and you are 
opting to go home with hospice care.  We put a gastric tube in 
to help alleviate any symptoms of obstruction.  You should keep 
the gastric tube hooked up to low suction overnight and when you 
are not doing anything during the day.  When you are active, and 
for ___ minutes after taking oral medications, you should 
clamp the tube.

You were continued on most of your oral medications that you 
take at home.  Over time, you may decide to discontinue these 
medications if they are not necessary for your comfort (for 
instance, your vitamin supplements), and can discuss this with 
your hospice team.

The hospice team will help you manage your symptoms at home.

We wish you the best of luck going forward. 

Thanks,

Your ___ Team

 
Followup Instructions:
___